US04492700
1.25 grams (0.005 mole) of N-benzylidene-2-chloropyrazine-3-sulfenamide in 25 milliliters of chloroform was added to a rapidly stirring mixture of 0.69 gram (0.25 millimole) of sodium bicarbonate and the resulting mixture cooled to 0° C. To the cooled solution, a solution of gram (5.5 millimole) of m-chloroperbenzoic acid in 25 milliliter of chloroform was added dropwise over a 15 minute period. After completion of the addition, stirring was continued for 15 hours. At the end of this period, chloroform layer was separated from the aqueous layer, dried over anhydrous potassium carbonate, and subjected to reduced pressure to remove the solvent and to recover as residue an oil which solidified on standing. The latter was purified by crystallization from ethanol to obtain the desired N-benzylidene-2-chloropyrazine-3-sulfinamide product, m.p. 113°-114° C. Elemental analyses were as follows:

reactant | N-benzylidene-2-chloropyrazine-3-sulfenamide | 0.005 mole, 1.25 grams | C(C1=CC=CC=C1)=NSC=1C(=NC=CN1)Cl | C11H8ClN3S
reactant | sodium bicarbonate | 0.25 millimole, 0.69 gram | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 5.5 millimole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 25 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 milliliter | C(Cl)(Cl)Cl | CHCl3
product | N-benzylidene-2-chloropyrazine-3-sulfinamide | C(C1=CC=CC=C1)=NS(=O)C=1C(=NC=CN1)Cl | C11H8ClN3OS
